US07067540B2
Preparation of 3-bromo-1-[3-(bromomethyl)benzyl]-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one.
3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one (2 g, 6.06 mmol) was suspended in 1,4-dioxane (250 mL). α,α′-Dibromo-m-xylene (8 g, 30.3 mmol) was added followed by sodium hydride (0.3 g, 7.5 mmol, 60% in mineral oil). The reaction was heated to 60° C. and stirred for 16 hours. The reaction was filtered through Celite® and the filtrate was concentrated to an oil that was partitioned between water and dichloromethane and extracted with dichloromethane (4×250 mL). The organic extracts were combined, washed with brine, dried over Na2SO4, and filtered. The filtrate was concentrated to an oil, and purified by chromatography (silica gel, hexane/ethyl acetate) to yield a white solid (1.2 g, 38%). 1H NMR (400 MHz, CDCl3) δ 7.57 (app q, J=7.6 Hz, 1H); 7.28-7.25 (m, 2H); 7.17 (s, 1H); 7.08 (m, 1H); 6.94 (app dt, J=1.2, 9.6 Hz, 1H), 6.87-6.82 (m, 1H); 5.99 (s, 1H), 5.34 (s, 2H), 5.20 (s, 2H); 4.43 (s, 2H); 2.29 (s, 3H). ES HRMS m/z 511.9672 (M+H C21H17Br2F2NO2 requires 511.9667).

reactant | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | 6.06 mmol, 2 g | BrC=1C(NC(=CC1OCC1=C(C=C(C=C1)F)F)C)=O | C13H10BrF2NO2
reactant | α,α′-Dibromo-m-xylene | 30.3 mmol, 8 g | BrCC1=CC(=CC=C1)CBr | C8H8Br2
reactant | sodium hydride | 7.5 mmol, 0.3 g | [H-].[Na+]
solvent | 1,4-dioxane | 250 mL | O1CCOCC1 | C4H8O2
product | 3-bromo-1-[3-(bromomethyl)benzyl]-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | 1.2 g, 38% | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC1=CC(=CC=C1)CBr)=O | C21H17Br2F2NO2
